US04145549
(c) N-carbobenzoxy-L-phenylalanyl-L-proline tert.-butyl ester [compound of formula VIII]
157 g of N-carbobenzoxy-L-phenylalanine in 500 ml methylene chloride and 300 ml absolute diethyl ether is treated at 15°-18° C. with 85.5 g L-proline tert.-butyl ester in 100 ml diethyl ether over 5 minutes, and then with 114 g of dicyclohexylcarbodiimide in 150 ml of diethyl ether over 15 minutes, both additions being at such a rate that the reaction mixture temperature does not rise above 18° C. The resultant mixture is stirred for a further hour at room temperature, and filtered, the solid residue being washed with ether. The filtrate is washed with, in turn, 2N hydrochloric acid, water, potassium bicarbonate, and then water, each washing being extracted with diethyl ether. All the organic phases are combined, dried over sodium sulphate and concentrated to yield an oily residue. The oily residue is taken up in methylene chloride, filtered, concentrated and dried in a high vacuum to yield the heading compound as a yellow oil.

reactant | N-carbobenzoxy-L-phenylalanine | 157 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | L-proline tert.-butyl ester | 85.5 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | dicyclohexylcarbodiimide | 114 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | N-carbobenzoxy-L-phenylalanyl-L-proline tert.-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C26H32N2O5
